US08563617B2
88.5 Cyclobutanesulfonic acid {2-[8-(3,4-dichloro-benzyl)-7-pyrrolidin-1-yl-5,6,7,8-tetrahydro-naphthalen-2-yloxy]ethyl}-amide hydrochloride
2-(8-(3,4-Dichlorobenzyl)-7-(pyrrolidin-1-yl)-5,6,7,8-tetrahydronaphthalen-2-yloxy)ethanamine (120 mg, 0.286 mmol), para-(N,N-dimethylamino) pyridine (1.40 g, 19.7 mmol), and cyclobutanesulfonyl chloride (46.5 mg, 0.30 mmol) were dissolved in CH2Cl2 (20 ml) and stirred for 14 h at room temperature. 0.5N HCl was added, the organic phase separated and the aqueous phase extracted with CH2Cl2. The combined organic layers were washed with water, NaHCO3 solution, and saturated NaCl solution, dried over Na2SO4, and concentrated to afford a residue that was purified by flash chromatography (silica gel, MeOH/CH2Cl2 3:97→5:95). The white solid product (164 mg, 32%) was trans-ferred to an HCl salt and precipitated from diisopropyl ether.

reactant | 2-(8-(3,4-Dichlorobenzyl)-7-(pyrrolidin-1-yl)-5,6,7,8-tetrahydronaphthalen-2-yloxy)ethanamine | 0.286 mmol, 120 mg | ClC=1C=C(CC2C(CCC=3C=CC(=CC23)OCCN)N2CCCC2)C=CC1Cl | C23H28Cl2N2O
reactant | cyclobutanesulfonyl chloride | 0.30 mmol, 46.5 mg | C1(CCC1)S(=O)(=O)Cl | C4H7ClO2S
reactant | HCl | 0.5N | Cl | ClH
catalyst | para-(N,N-dimethylamino) pyridine | 19.7 mmol, 1.40 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | Cyclobutanesulfonic acid {2-[8-(3,4-dichloro-benzyl)-7-pyrrolidin-1-yl-5,6,7,8-tetrahydro-naphthalen-2-yloxy]ethyl}-amide hydrochloride | Cl.ClC=1C=C(CC2C(CCC=3C=CC(=CC23)OCCNS(=O)(=O)C2CCC2)N2CCCC2)C=CC1Cl | InChI=1S/C27H34Cl2N2O3S.ClH/c28-25-10-6-19(17-26(25)29)16-24-23-18-21(34-15-12-30-35(32,33)22-4-3-5-22)9-7-20(23)8-11-27(24)31-13-1-2-14-31;/h6-7,9-10,17-18,22,24,27,30H,1-5,8,11-16H2;1H
